US06093527
1. Synthesis of 1,2-dimetyl-5-morpholinosulfonyl-3-(2,2,2-trifluoroethyl)benzimidazolium-trifluoromethanesulfonate
In 20 ml of a toluene solution, 5.9 g of 1,2-dimethyl-5-morpholinosulfonylbenzimidazole synthesized by a method described in Japanese Patent Publication No. 43-10252, end 6.5 g of 2,2,2-trifluoroethyl-trifluoromethanesulfonate were heated in reflux for 24 hours. After the resulting mixture was allowed to cool to room temperature, the supernatant was separated; to the reaction mixture was added an ethyl acetate solution and dispersed, and the product was collected by filtration and washed to obtain 7.2 g of a quartenary salt.

reactant | 1,2-dimethyl-5-morpholinosulfonylbenzimidazole | 5.9 g | CN1C(=NC2=C1C=CC(=C2)S(=O)(=O)N2CCOCC2)C | C13H17N3O3S
reactant | 2,2,2-trifluoroethyl-trifluoromethanesulfonate | 6.5 g | FC(COS(=O)(=O)C(F)(F)F)(F)F | C3H2F6O3S
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2-dimetyl-5-morpholinosulfonyl-3-(2,2,2-trifluoroethyl)benzimidazolium trifluoromethanesulfonate | 7.2 g | C[N+]1=C(N(C2=C1C=CC(=C2)S(=O)(=O)N2CCOCC2)CC(F)(F)F)C.FC(S(=O)(=O)[O-])(F)F | InChI=1S/C15H19F3N3O3S.CHF3O3S/c1-11-19(2)13-4-3-12(9-14(13)21(11)10-15(16,17)18)25(22,23)20-5-7-24-8-6-20;2-1(3,4)8(5,6)7/h3-4,9H,5-8,10H2,1-2H3;(H,5,6,7)/q+1;/p-1
